US04034098
3-[2-(4-m-Methoxybenzenesulphonamido-1-piperidyl)ethyl]indole
Using an analogous procedure to Example 1 3-[2-(4-amino-1-piperidyl)ethyl]indole monohydrate may be reacted with m-methoxybenzenesulphonyl chloride to give the title compound.

reactant | 3-[2-(4-amino-1-piperidyl)ethyl]indole monohydrate | O.NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
reactant | m-methoxybenzenesulphonyl chloride | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
product | 3-[2-(4-m-Methoxybenzenesulphonamido-1-piperidyl)ethyl]indole | COC=1C=C(C=CC1)S(=O)(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C22H27N3O3S
